US07741327B2
(S)-3-cyclohexyl-2-(2,4-dioxo-pyrrolidin-1-yl)-N-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-propionamide (100 mg, 0.26 mmol) was added to n-propyl alcohol (3 mL), and toluene-4-sulfonic acid hydrate (10 mg). The mixture was stirred at 100° C. for 3 h. The reaction mixture was concentrated and the crude product obtained was purified by ISCO flash chromatography (Teledyne Isco RediSep Flash Column 12 g; 0% to 10% methanol/dichloromethane) to afford (S)-3-cyclohexyl-N-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-2-(2-oxo-4-propoxy-2,5-dihydro-pyrrol-1-yl)-propionamide (24 mg, 22%) as an off-white solid: LR-ES-MS m/z calculated for C22H34N4O4 [M]+ 432, observed [M+H]+ 433; 1H NMR (300 MHz, DMSO-d6) δ ppm 0.82-0.95 (m, 5H), 0.96-1.14 (m, 2H), 1.27 (d, J=6.0 Hz, 6H), 1.37-1.89 (m, 11H), 3.90 (d, J=17.6 Hz, 1H), 3.88 (s, 2H), 4.28 (d, J=17.6 Hz, 1H), 4.44 (d, J=6.0 Hz, 2H), 4.67 (s, 1H), 4.76 (dd, J=10.3, 3.9 Hz, 1H), 5.12 (s, 1H), 6.42 (d, J=1.5 Hz, 1H), 7.52 (d, J=1.5 Hz, 1H), 10.72 (s, 1H).

reactant | (S)-3-cyclohexyl-2-(2,4-dioxo-pyrrolidin-1-yl)-N-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-propionamide | 0.26 mmol, 100 mg | C1(CCCCC1)C[C@@H](C(=O)NC1=NN(C=C1)CC(C)(C)O)N1C(CC(C1)=O)=O | C20H30N4O4
reactant | toluene-4-sulfonic acid hydrate | 10 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | n-propyl alcohol | 3 mL | C(CC)O | C3H8O
product | (S)-3-cyclohexyl-N-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-2-(2-oxo-4-propoxy-2,5-dihydro-pyrrol-1-yl)-propionamide | 24 mg, 22% | C1(CCCCC1)C[C@@H](C(=O)NC1=NN(C=C1)CC(C)(C)O)N1C(C=C(C1)OCCC)=O | C23H36N4O4
